US07425634B2
(2b) 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole
To a mixture of (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl 4-methylbenzenesulfonate (457 mg, 1.05 mmol), 2-mercaptobenzimidazole (158 mg, 1.05 mmol), and tetrahydrofuran (5 ml), triethylamine (0.293 ml, 2.1 mmol) was added and the mixture was stirred at room temperature for 15 hours and 30 minutes. To the reaction mixture, toluene and a diluted aqueous sodium hydroxide solution were added and the organic layer was taken out. The aqueous layer was extracted again with toluene. The organic layers were combined and washed with a saturated saline solution, dried over sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure. The residue was dissolved in n-heptane/ethyl acetate (1/1) and subjected to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=1/1→0/1) to obtain the title compound (419 mg, 96.5%) as a colorless viscous oil.

reactant | (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl 4-methylbenzenesulfonate | 1.05 mmol, 457 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1=NC=C(C(=C1C)OCC1COC(OC1)(C)C)C | C22H29NO6S
reactant | 2-mercaptobenzimidazole | 1.05 mmol, 158 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | triethylamine | 2.1 mmol, 0.293 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(((4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 419 mg, 96.5% | CC1(OCC(CO1)COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=CC=C2)C)C | C22H27N3O3S
